** Name: SimpleTwoStageOpAmp_SimpleOpAmp8_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp8_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=10e-6 W=15e-6
mDiodeTransistorPmos2 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=25e-6
mDiodeTransistorPmos3 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=164e-6
mNormalTransistorNmos4 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=91e-6
mNormalTransistorNmos5 out ibias sourceNmos sourceNmos nmos4 L=10e-6 W=595e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=10e-6 W=380e-6
mNormalTransistorNmos7 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=91e-6
mNormalTransistorNmos8 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=10e-6 W=152e-6
mNormalTransistorPmos9 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=2e-6 W=164e-6
mNormalTransistorPmos10 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos11 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=591e-6
Capacitor1 outFirstStage out 10.7001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp8_10

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 3.81201 mW
** Area: 14930 (mu_m)^2
** Transit frequency: 6.11301 MHz
** Transit frequency with error factor: 6.10549 MHz
** Slew rate: 9.27796 V/mu_s
** Phase margin: 65.3172°
** CMRR: 97 dB
** negPSRR: 124 dB
** posPSRR: 95 dB
** VoutMax: 4.61001 V
** VoutMin: 0.280001 V
** VcmMax: 4.66001 V
** VcmMin: 0.930001 V


** Expected Currents: 
** NormalTransistorNmos: 253.835 muA
** DiodeTransistorPmos: -49.9389 muA
** NormalTransistorPmos: -49.9389 muA
** NormalTransistorNmos: 99.8771 muA
** NormalTransistorNmos: 49.9381 muA
** NormalTransistorNmos: 49.9381 muA
** NormalTransistorNmos: 398.641 muA
** NormalTransistorPmos: -398.64 muA
** NormalTransistorPmos: -398.641 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -253.834 muA


** Expected Voltages: 
** ibias: 0.685001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.24101  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 4.25101  V
** sourceTransconductance: 1.85301  V
** innerTransconductance: 4.44201  V


.END