** Name: SimpleTwoStageOpAmp_SimpleOpAmp8_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp8_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=556e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=48e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=38e-6
mNormalTransistorNmos6 out inputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=556e-6
mNormalTransistorNmos7 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=94e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mNormalTransistorNmos9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=94e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=73e-6
mNormalTransistorNmos11 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorPmos12 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=300e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=549e-6
mNormalTransistorPmos14 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=5e-6 W=38e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 6.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp8_9

** Expected Performance Values: 
** Gain: 84 dB
** Power consumption: 14.9891 mW
** Area: 5536 (mu_m)^2
** Transit frequency: 17.5221 MHz
** Transit frequency with error factor: 17.4985 MHz
** Slew rate: 23.3544 V/mu_s
** Phase margin: 65.3172°
** CMRR: 86 dB
** negPSRR: 115 dB
** posPSRR: 84 dB
** VoutMax: 4.25 V
** VoutMin: 0.890001 V
** VcmMax: 4.11001 V
** VcmMin: 0.880001 V


** Expected Currents: 
** NormalTransistorNmos: 8.00601 muA
** NormalTransistorPmos: -49.4919 muA
** DiodeTransistorPmos: -71.6099 muA
** NormalTransistorPmos: -71.6099 muA
** NormalTransistorNmos: 143.22 muA
** NormalTransistorNmos: 71.6091 muA
** NormalTransistorNmos: 71.6091 muA
** NormalTransistorNmos: 2787.11 muA
** DiodeTransistorNmos: 2787.11 muA
** NormalTransistorPmos: -2787.1 muA
** DiodeTransistorNmos: 49.4911 muA
** NormalTransistorNmos: 49.4911 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -8.00699 muA


** Expected Voltages: 
** ibias: 0.670001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.29601  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.648001  V
** outVoltageBiasXXpXX0: 4.22101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 3.70701  V
** sourceTransconductance: 1.88201  V
** inner: 0.648001  V


.END