** Name: SimpleTwoStageOpAmp_SimpleOpAmp9_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp9_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=7e-6 W=18e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=27e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=405e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=29e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=25e-6
mNormalTransistorNmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=34e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=405e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=7e-6 W=16e-6
mNormalTransistorNmos9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=34e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=7e-6 W=129e-6
mNormalTransistorNmos11 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=27e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad1 FirstStageYinnerSourceLoad1 pmos4 L=7e-6 W=357e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=269e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=579e-6
mNormalTransistorPmos15 FirstStageYout1 FirstStageYinnerSourceLoad1 sourcePmos sourcePmos pmos4 L=3e-6 W=25e-6
Capacitor1 outFirstStage out 2.5e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp9_9

** Expected Performance Values: 
** Gain: 94 dB
** Power consumption: 14.9981 mW
** Area: 11139 (mu_m)^2
** Transit frequency: 27.3701 MHz
** Transit frequency with error factor: 27.3541 MHz
** Slew rate: 26.9594 V/mu_s
** Phase margin: 65.3172°
** CMRR: 107 dB
** negPSRR: 98 dB
** posPSRR: 94 dB
** VoutMax: 4.25 V
** VoutMin: 0.970001 V
** VcmMax: 4.16001 V
** VcmMin: 0.780001 V


** Expected Currents: 
** NormalTransistorNmos: 8.95001 muA
** NormalTransistorPmos: -178.683 muA
** NormalTransistorPmos: -35.3679 muA
** NormalTransistorPmos: -35.3679 muA
** DiodeTransistorPmos: -35.3679 muA
** NormalTransistorNmos: 70.7341 muA
** NormalTransistorNmos: 35.3671 muA
** NormalTransistorNmos: 35.3671 muA
** NormalTransistorNmos: 2731.27 muA
** DiodeTransistorNmos: 2731.27 muA
** NormalTransistorPmos: -2731.26 muA
** DiodeTransistorNmos: 178.684 muA
** NormalTransistorNmos: 178.684 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -8.95099 muA


** Expected Voltages: 
** ibias: 0.619001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.37201  V
** outSourceVoltageBiasXXnXX1: 0.686001  V
** outVoltageBiasXXpXX0: 4.01901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 3.94701  V
** out1: 3.18601  V
** sourceTransconductance: 1.93801  V
** inner: 0.686001  V


.END