** Name: SymmetricalOpAmp119

.MACRO SymmetricalOpAmp119 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=64e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=1e-6 W=64e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=62e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=299e-6
mNormalTransistorNmos6 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=1e-6 W=64e-6
mNormalTransistorNmos7 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=299e-6
mNormalTransistorNmos8 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=3e-6 W=315e-6
mNormalTransistorNmos9 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=125e-6
mNormalTransistorNmos10 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=64e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=300e-6
mNormalTransistorPmos12 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=580e-6
mNormalTransistorPmos13 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=580e-6
mNormalTransistorPmos14 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=300e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=37e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=36e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=111e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=111e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp119

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 8.20001 mW
** Area: 6698 (mu_m)^2
** Transit frequency: 74.2091 MHz
** Transit frequency with error factor: 74.2091 MHz
** Slew rate: 73.7648 V/mu_s
** Phase margin: 56.7229°
** CMRR: 144 dB
** negPSRR: 76 dB
** posPSRR: 60 dB
** VoutMax: 4.38001 V
** VoutMin: 0.930001 V
** VcmMax: 4.97001 V
** VcmMin: 0.830001 V


** Expected Currents: 
** NormalTransistorNmos: 629.511 muA
** NormalTransistorPmos: -122.619 muA
** NormalTransistorPmos: -122.62 muA
** NormalTransistorPmos: -122.619 muA
** NormalTransistorPmos: -122.62 muA
** NormalTransistorNmos: 245.239 muA
** NormalTransistorNmos: 122.62 muA
** NormalTransistorNmos: 122.62 muA
** NormalTransistorNmos: 373.919 muA
** DiodeTransistorNmos: 373.918 muA
** NormalTransistorPmos: -373.918 muA
** NormalTransistorPmos: -373.919 muA
** DiodeTransistorNmos: 381.286 muA
** NormalTransistorNmos: 381.285 muA
** NormalTransistorPmos: -381.285 muA
** NormalTransistorPmos: -381.286 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -629.51 muA


** Expected Voltages: 
** ibias: 0.670001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.669001  V
** inSourceTransconductanceComplementarySecondStage: 3.99801  V
** innerComplementarySecondStage: 1.33601  V
** out: 2.5  V
** out1FirstStage: 4.00401  V
** out2FirstStage: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.40101  V
** innerTransistorStack2Load1: 4.40101  V
** sourceTransconductance: 1.93901  V
** innerTransconductance: 4.43901  V
** inner: 0.665001  V
** inner: 4.44101  V


.END