** Name: SymmetricalOpAmp13

.MACRO SymmetricalOpAmp13 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=13e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=33e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=33e-6
mDiodeTransistorPmos4 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=5e-6 W=351e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=8e-6
mNormalTransistorNmos6 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=21e-6
mNormalTransistorNmos7 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=21e-6
mNormalTransistorNmos8 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=93e-6
mNormalTransistorNmos9 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=93e-6
mNormalTransistorPmos10 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=6e-6 W=490e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=302e-6
mNormalTransistorPmos12 innerComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=5e-6 W=351e-6
mNormalTransistorPmos13 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage pmos4 L=5e-6 W=479e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=302e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=197e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp13

** Expected Performance Values: 
** Gain: 92 dB
** Power consumption: 7.99101 mW
** Area: 11238 (mu_m)^2
** Transit frequency: 73 MHz
** Transit frequency with error factor: 73.0004 MHz
** Slew rate: 68.8817 V/mu_s
** Phase margin: 55.004°
** CMRR: 140 dB
** negPSRR: 51 dB
** posPSRR: 60 dB
** VoutMax: 3.45001 V
** VoutMin: 0.740001 V
** VcmMax: 3.63001 V
** VcmMin: 0.140001 V


** Expected Currents: 
** NormalTransistorPmos: -624.734 muA
** DiodeTransistorNmos: 125.585 muA
** DiodeTransistorNmos: 125.585 muA
** NormalTransistorPmos: -251.168 muA
** NormalTransistorPmos: -125.584 muA
** NormalTransistorPmos: -125.584 muA
** NormalTransistorNmos: 348.419 muA
** NormalTransistorNmos: 348.42 muA
** NormalTransistorPmos: -348.418 muA
** DiodeTransistorPmos: -348.419 muA
** NormalTransistorPmos: -353.803 muA
** NormalTransistorNmos: 353.804 muA
** NormalTransistorNmos: 353.803 muA
** DiodeTransistorNmos: 624.735 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.78501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 1.15501  V
** inSourceTransconductanceComplementarySecondStage: 0.704001  V
** inStageBiasComplementarySecondStage: 3.90701  V
** innerComplementarySecondStage: 2.89001  V
** out: 2.5  V
** outFirstStage: 0.704001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.21601  V
** innerTransconductance: 0.306001  V
** inner: 0.306001  V


.END