** Name: SymmetricalOpAmp12

.MACRO SymmetricalOpAmp12 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos2 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=63e-6
mDiodeTransistorPmos4 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=8e-6
mDiodeTransistorPmos5 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=3e-6 W=8e-6
mNormalTransistorNmos6 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=19e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=19e-6
mNormalTransistorPmos8 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=45e-6
mNormalTransistorPmos9 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=3e-6 W=8e-6
mNormalTransistorPmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=45e-6
mNormalTransistorPmos11 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=113e-6
mNormalTransistorPmos12 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=8e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp12

** Expected Performance Values: 
** Gain: 55 dB
** Power consumption: 0.437001 mW
** Area: 1260 (mu_m)^2
** Transit frequency: 5.21701 MHz
** Transit frequency with error factor: 5.21721 MHz
** Slew rate: 4.95519 V/mu_s
** Phase margin: 83.0789°
** CMRR: 107 dB
** negPSRR: 55 dB
** posPSRR: 104 dB
** VoutMax: 3 V
** VoutMin: 0.170001 V
** VcmMax: 4.08001 V
** VcmMin: 0.0200001 V


** Expected Currents: 
** DiodeTransistorNmos: 9.07901 muA
** DiodeTransistorNmos: 9.07901 muA
** NormalTransistorPmos: -18.1609 muA
** NormalTransistorPmos: -9.07999 muA
** NormalTransistorPmos: -9.07999 muA
** NormalTransistorNmos: 24.7901 muA
** NormalTransistorPmos: -24.7909 muA
** DiodeTransistorPmos: -24.7919 muA
** DiodeTransistorPmos: -24.5489 muA
** NormalTransistorPmos: -24.5479 muA
** NormalTransistorNmos: 24.5481 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.22501  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 3.71801  V
** inTransconductanceComplementarySecondStage: 0.580001  V
** innerComplementarySecondStage: 2.43601  V
** out: 2.5  V
** outFirstStage: 0.580001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.21401  V
** inner: 3.71501  V


.END